US04592866
2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione fumarate
To 5.0 g (0.0914 mole) of 2-(2-chloroethyl)-2,5-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione dissolved in 50 ml of dimethylsulfoxide was added 8.04 g (0.058 mole) of potassium carbonate and 1.21 g (0.021 mole) of azetidine. The reaction mixture was stirred at room temperature for 8 hr after which was added 0.5 g (0.009 mole) of azetidine and the mixture was stirred overnight at room temperature. An additional 0.3 g (0.005 mole of azetidine was added and stirring was continued for 24 hr. The mixture was filtered and solvent removed by rotary evaporator at 80° C., 0.5 mm Hg. The residue was taken up in 100 ml of chloroform and the solution was washed with two 30 ml portions of dilute aqueous sodium hydroxide. The organic layer was dried over magnesium sulfate, filtered and concentrated by rotary evaporator. The residue was reacted with fumaric acid in isopropyl alcohol to give 2.5 g (31%) of pale yellow crystals, m.p. 122°-126° C.

reactant | 2-(2-chloroethyl)-2,5-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | 0.0914 mole, 5.0 g | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2OS
reactant | potassium carbonate | 0.058 mole, 8.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | azetidine | 0.021 mole, 1.21 g | N1CCC1 | C3H7N
reactant | azetidine | 0.009 mole, 0.5 g | N1CCC1 | C3H7N
reactant | azetidine | 0.005 mole | N1CCC1 | C3H7N
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione fumarate | 2.5 g, 31% | C(\C=C\C(=O)O)(=O)O.N1(CCC1)CCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | InChI=1S/C14H19N3OS.C4H4O4/c1-16-10-11(5-9-17-7-3-8-17)18-13-12(14(16)19)4-2-6-15-13;5-3(6)1-2-4(7)8/h2,4,6,11H,3,5,7-10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
